US08710043B2
1-Iodo-4-(trifluoromethoxy)benzene (1.00 g, 3.47 mmol) was dissolved in dry THF (10 mL) and cooled in an ice bath. Isopropylmagnesium chloride, lithium chloride complex (14% solution in THF, Aldrich, 3.07 mL, 2.82 mmol) was added, and the mixture was stirred for 10 min. A solution of (S,E)-N-((3-fluoropyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide (0.643 g, 2.82 mmol) in dry THF (10 mL) was added and the reaction was stirred. After 50 minutes, the reaction was quenched by addition of saturated aqueous NH4Cl (10 mL). H2O (100 mL) and EtOAc (150 mL) were added, and the phases were mixed and separated. The organic layer was dried with MgSO4 and evaporated to dryness under reduced pressure. Purification using silica chromatography (hexane to EtOAc gradient) gave the desired (S)—N—((S)-(3-fluoropyridin-2-yl)(4-(trifluoro-methoxy)phenyl)methyl)-2-methylpropane-2-sulfinamide.

reactant | 1-Iodo-4-(trifluoromethoxy)benzene | 3.47 mmol, 1.00 g | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
reactant | Isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | lithium chloride | 2.82 mmol, 3.07 mL | [Cl-].[Li+]
reactant | (S,E)-N-((3-fluoropyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | 2.82 mmol, 0.643 g | FC=1C(=NC=CC1)\C=N\[S@@](=O)C(C)(C)C | C10H13FN2OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)—N—((S)-(3-fluoropyridin-2-yl)(4-(trifluoro-methoxy)phenyl)methyl)-2-methylpropane-2-sulfinamide | FC=1C(=NC=CC1)[C@@H](N[S@@](=O)C(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F | C17H18F4N2O2S
